* C:\users\gary\Documents\_University\_2022\_Second Semester\E Design\Repo\LTSpice\RangeSensor\E344_Ass2_US2A.asc
V2 N001 0 5
RSense5V N001 5V 1µ
XU4 N007 N004 3V3 0 N004 LTC6078
V12 ultrasonic_out P001 PULSE(0 5 0 0 0 6000u 60m 33)
V5 P001 P002 PULSE(0 5 2 0 0 500u 60m 33)
V6 P002 P003 PULSE(0 5 4 0 0 6000u 60m 33)
V3 P003 0 PULSE(0 5 6 0 0 3000u 60m 33)
R2 range_analog 0 100k
V1 N002 0 3.3
RSense3V N002 3V3 1µ
XU1 N006 N005 3V3 0 range_analog LTC6078
R1 N003 ultrasonic_out 170k
R0 N007 N003 280k
C1 0 N007 220nF
C2 N004 N003 470nF
R3 N006 N004 5.6k
Co N006 0 47µ
Rf range_analog N005 10k
Rg N005 0 2k
R4 3V3 N006 5000k
R5 3V3 N003 560k
R6 N003 0 100k
.tran 0 {transtop} 0
.include A2cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify the input files (.txt and .csv) \n               while developing.\nFor submission: \n  * Only one label name per net name\n  * Use only the provided 5V for power
* Config file:
* Analysis setup:
* =============================\nREPLACE WITH YOUR DETAILS\nE. Stewdent.,  00024601\n=============================
* =============================\nIncludes (don't fiddle with this!!)\n=============================
* ===============================================\nYour circuit goes here - conntect inputs, outputs and supply.\n===============================================
* PLEASE WAIT FOR YOUR SIMULATION TO FINISH BEFORE SUBMITTING.
* Signal from ultrasonic sensor (input to your circuit)
* 5V supply to your circuit
* Analogue range signal (output from your circuit)
.lib LTC5.lib
.backanno
.end
