* C:\users\gary\Documents\_University\_2022\_Second Semester\E Design\Repo\LTSpice\RangeSensor\E344_Ass2_US2A.asc
V2 N001 0 5
RSense5V N001 5V 1µ
XU4 N006 range_analog 5V 0 range_analog LTC6078
V12 ultrasonic_out P001 PULSE(0 5 0 0 0 6000u 60m 33)
V5 P001 P002 PULSE(0 5 2 0 0 500u 60m 33)
V6 P002 P003 PULSE(0 5 4 0 0 6000u 60m 33)
V3 P003 0 PULSE(0 5 6 0 0 3000u 60m 33)
R2 range_analog 0 100k
V1 N002 0 3.3
RSense3V N002 3V3 1µ
XU1 N007 N004 5V 0 N005 LTC6078
R1 N003 N005 180k
R222 N006 N003 270k
C1 0 N006 220nF
C2 range_analog N003 470nF
R11 N007 ultrasonic_out 5.6k
Co N007 0 47µ
Rf N005 N004 10k
Rg N004 0 2k
R22 5V N007 1055k
V4 NC_01 0 475m
.tran 0 {transtop} 0
.include A2cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify the input files (.txt and .csv) \n               while developing.\nFor submission: \n  * Only one label name per net name\n  * Use only the provided 5V for power
* Config file:
* Analysis setup:
* =============================\nREPLACE WITH YOUR DETAILS\nE. Stewdent.,  00024601\n=============================
* =============================\nIncludes (don't fiddle with this!!)\n=============================
* ===============================================\nYour circuit goes here - conntect inputs, outputs and supply.\n===============================================
* PLEASE WAIT FOR YOUR SIMULATION TO FINISH BEFORE SUBMITTING.
* Signal from ultrasonic sensor (input to your circuit)
* 5V supply to your circuit
* Analogue range signal (output from your circuit)
.lib LTC5.lib
.backanno
.end
